US04330539
A stirred suspension of 5α,6β-dichloro-17β-methylamino-5α-androstane-3β,16α-diol 3-acetate (13 g) in methanol (105 ml) and aqueous potassium hydroxide solution (3.9 ml; 10 N) was heated under reflux for 1 hr., cooled and water was added to precipitate the product as a white solid, which was filtered off, and washed with water (wt. 11 g). Recrystallisation of a sample from methanol gave 5α,6β-dichloro-17β-methylamino-5α-androstane-3β,16α-diol as prisms, m.p. 194°-195° C. (decomp.).

reactant | 5α,6β-dichloro-17β-methylamino-5α-androstane-3β,16α-diol 3-acetate | 13 g | C(C)(=O)O[C@@H]1C[C@@]2([C@@H](C[C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)NC)O)Cl)Cl | C22H35Cl2NO3
reactant | water | O | H2O
solvent | methanol | 105 ml | CO | CH4O
solvent | potassium hydroxide | 10 N, 3.9 ml | [OH-].[K+]
product | 5α,6β-dichloro-17β-methylamino-5α-androstane-3β,16α-diol | Cl[C@]12[C@@H](C[C@H]3[C@@H]4C[C@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC[C@@H](C1)O)C)NC)O)Cl | C20H33Cl2NO2
